US04150153
1-[2-Naphthoylmethyl]imidazole hydrochloride (540 mg) and p-toluenesulfonic acid monohydrate (570 mg) in toluene (10 ml) containing a little benzene are treated with 2-mercaptoethanol (4 ml). A pressure-equalized addition funnel filled with activated 4 A molecular sieves in toluene is placed above the flask as a modified Dean-Stark trap and the mixture heated under reflux with stirring for 18 hours. The resulting mixture is then added with stirring to excess aqueous potassium carbonate, the product extracted with ether (with filtration) and the extracts washed, dried (MgSO4) and evaporated. Purification by chromatography on silica gel eluting with ethyl acetate gives pure 1-[2-naphthoylmethyl]imidazole ethylene hemithioketal.

reactant | 1-[2-Naphthoylmethyl]imidazole hydrochloride | 540 mg | Cl.C1=C(C=CC2=CC=CC=C12)C(=O)CN1C=NC=C1
reactant | p-toluenesulfonic acid monohydrate | 570 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | 2-mercaptoethanol | 4 ml | SCCO | C2H6OS
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-[2-naphthoylmethyl]imidazole ethylene | C=C.C1=C(C=CC2=CC=CC=C12)C(=O)CN1C=NC=C1 | InChI=1S/C15H12N2O.C2H4/c18-15(10-17-8-7-16-11-17)14-6-5-12-3-1-2-4-13(12)9-14;1-2/h1-9,11H,10H2;1-2H2
